US07902226B2
7-[3-(R)-(1-aminocyclopropyl)pyrrolidin-1-yl]-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid
After adding 3-(R)-[1-tert-butoxycarbonylaminocyclopropyl]pyrrolidine (165 mg, 731 μmol) and triethylamine (0.50 ml) to dried dimethyl sulfoxide (2 ml), 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid (180 mg, 609 μmol) was added thereto and it was heated under reflux for 13 hours under a nitrogen atmosphere. After concentrating the reaction solution under reduced pressure, the residue was dissolved in chloroform (100 ml). After washing the organic layer with a 10% aqueous citric acid solution (50 ml), the organic layer was dried over anhydrous sodium sulfate. After filtering, the filtrate was concentrated under a reduced pressure, and after adding dropwise concentrated hydrochloric acid (5 ml) to the residue while cooling with ice, stirring was performed at room temperature for 30 minutes. 1 mol/l Hydrochloric acid (5 ml) was then added to the reaction solution, and after washing the yellow acidic aqueous solution with chloroform (50 ml×4), the pH was adjusted to 12.0 with an aqueous sodium hydroxide solution and the insolubles were removed by filtration. After adjusting the pH of the basic aqueous solution to 7.4 with 1 mol/l hydrochloric acid, extraction with chloroform (100 ml×4) was performed. After drying over anhydrous sodium sulfate, the solvent was evapolated under a reduced pressure. The residue thus obtained was purified by preparative chromatography (development at the lower layer of a 7:3:1 mixture of chloroform methanol:water), recrystallized in isopropyl alcohol, and dried under a reduced pressure. 146 mg (60%) of the title compound was thereby obtained in the form of yellow crystals.

reactant | 3-(R)-[1-tert-butoxycarbonylaminocyclopropyl]pyrrolidine | 731 μmol, 165 mg | C(C)(C)(C)OC(=O)NC1(CC1)[C@H]1CNCC1 | C12H22N2O2
reactant | triethylamine | 0.50 ml | C(C)N(CC)CC | C6H15N
reactant | 7-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid | 609 μmol, 180 mg | FC1=CC=C2C(C(=CN(C2=C1OC)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F2NO4
solvent | dimethyl sulfoxide | 2 ml | CS(=O)C | C2H6OS
product | 7-[3-(R)-(1-aminocyclopropyl)pyrrolidin-1-yl]-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methoxy-4-oxoquinoline-3-carboxylic acid | 146 mg, 60% | NC1(CC1)[C@H]1CN(CC1)C1=CC=C2C(C(=CN(C2=C1OC)[C@H]1[C@H](C1)F)C(=O)O)=O | C21H24FN3O4
